US07902203B2
ethyl 2-[(2-ethylbutyl)amino]nicotinate
Ethyl 2-chloronicotinate (0.646 g, 3.48 mmol) and 2-ethylbutylamine (0.74 g, 7.31 mmol) were reacted in a sealed tube at 130° C. for 2 hours. The reaction mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane (2×50 mL). The organic layers were combined and dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (19:1) to provide the title compound (0.665 g, 76%). MS (ESI+) m/z 251.1 (M+H)+; 1H NMR (300 MHz, CDCl3) δ 0.93 (t, J=7.54 Hz, 6H), 1.41 (m, 7H), 1.55 (m, 1H), 3.46 (m, 2H), 4.32 (q, J=6.99 Hz, 2H), 6.48 (dd, J=7.72, 4.78 Hz, 1H), 7.99 (s, 1H), 8.11 (dd, J=7.72, 2.21 Hz, 1H), 8.27 (dd, J=4.78, 1.84 Hz, 1H).

reactant | Ethyl 2-chloronicotinate | 3.48 mmol, 0.646 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 2-ethylbutylamine | 7.31 mmol, 0.74 g | C(C)C(CN)CC | C6H15N
product | ethyl 2-[(2-ethylbutyl)amino]nicotinate | 0.665 g, 76% | C(C)C(CNC1=C(C(=O)OCC)C=CC=N1)CC | C14H22N2O2
